US05998439
Synthesis of 4-(1-(2-allyloxyethyl)-1H-benzimidazole-2-carbonyl)piperidine
Combine 1-(t-butoxycarbonyl)-4-(1-(2-allyloxyethyl)-1H-benzimidazole-2-carbonyl)piperidine (1.0 mmol) and dioxane (3 mL). Add a solution of hydrochloric acid in dioxane (4 mL, 4 M, 16 mmol). After 30 minutes, partition the residue between ethyl acetate and saturated aqueous sodium bicarbonate solution. Separate the organic layer and extract with saturated aqueous sodium chloride solution. Dry the organic layer over Na2SO4, filter, and evaporate in vacuo to give the title compound.

reactant | 1-(t-butoxycarbonyl)-4-(1-(2-allyloxyethyl)-1H-benzimidazole-2-carbonyl)piperidine | 1.0 mmol | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)C1=NC2=C(N1CCOCC=C)C=CC=C2 | C23H31N3O4
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 16 mmol, 4 M, 4 mL | O1CCOCC1 | C4H8O2
product | 4-(1-(2-allyloxyethyl)-1H-benzimidazole-2-carbonyl)piperidine | C(C=C)OCCN1C(=NC2=C1C=CC=C2)C(=O)C2CCNCC2 | C18H23N3O2
